US04589910
A solution of 6.1 parts of N-methoxy-N-methylamine in 100 parts of diethyl ether was added to a solution of 30.3 parts of 5-(2'-chloro-4'-isocyanatophenoxy)-benzisothiazole in 300 parts of diethyl ether at from 20° to 30° C., and after 12 hours at this temperature the reaction mixture was evaporated down and the residue was treated with about 50 parts of diethyl ether. 30.2 parts (83% of theory) of 5-[2'-chloro-4'-(N-methoxy-N-methylaminocarbonylamino)-phenoxy]-benzisothiazole of melting point 128° C. were obtained.

reactant | N-methoxy-N-methylamine | CONC | C2H7NO
reactant | 5-(2'-chloro-4'-isocyanatophenoxy)-benzisothiazole | ClC1=C(OC=2C=CC3=C(C=NS3)C2)C=CC(=C1)N=C=O | C14H7ClN2O2S
reactant | diethyl ether | C(C)OCC | C4H10O
product | 5-[2'-chloro-4'-(N-methoxy-N-methylaminocarbonylamino)-phenoxy]-benzisothiazole | 83% | ClC1=C(OC=2C=CC3=C(C=NS3)C2)C=CC(=C1)N(C(=O)NC)OC | C16H14ClN3O3S
